US04661636
2-Formyl-4-(1-methylpropyl)-6-methylsulfonylphenol
0.48 g (0.0016 mol) of 2-aminomethyl-4-(1-methylpropyl)-6-methylsulfonylphenol hydrochloride is reacted with 0.22 g of hexamethylenetetramine in 3 ml of trifluoroacetic acid in analogy to Example 1. Melting point: 68°-70° C.

reactant | 2-aminomethyl-4-(1-methylpropyl)-6-methylsulfonylphenol hydrochloride | 0.0016 mol, 0.48 g | Cl.NCC1=C(C(=CC(=C1)C(CC)C)S(=O)(=O)C)O
reactant | hexamethylenetetramine | 0.22 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Formyl-4-(1-methylpropyl)-6-methylsulfonylphenol | C(=O)C1=C(C(=CC(=C1)C(CC)C)S(=O)(=O)C)O | C12H16O4S
